2107-04-24 09:24:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2107-4-23**] 06:00 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2107-4-23**] 10:30 PM
   3 attempts made to cardiovert were unsuccessful
   CVL placed without event
   Fluconazole recommended against by ID and continued on antibacterial
   Neo trialed to look for improvement from increased in SVR but failed to
   provide any meaningful improvement in hemodynamics which would suggest
   cardiogenic source primarily for persistent hypotension.
   In the setting of Amiodarone and suggestion of cardiogenic domiance to
   perstistent shock cardioversion attempted without good effect.
   Patient to PSV this morning.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2107-4-22**] 02:20 AM
   Ciprofloxacin - [**2107-4-22**] 08:00 AM
   Vancomycin - [**2107-4-23**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-4-24**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Heparin Sodium - 650 units/hour
   Fentanyl - 50 mcg/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Genitourinary: Foley
   Flowsheet Data as of  [**2107-4-24**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.3
   HR: 106 (106 - 155) bpm
   BP: 95/60(74) {70/48(57) - 110/66(6,152)} mmHg
   RR: 28 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
   CVP: 17 (17 - 361)mmHg
   Total In:
                                                                  8,245 mL
                                                                  1,157 mL
   PO:
   TF:
   IVF:
                                                                  7,296 mL
                                                                    972 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                    925 mL
   Urine:
                                                                  2,720 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,525 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 703 (485 - 703) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: 7.35/33/116/17/-6
   Ve: 10.9 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   378 K/uL
   129 mg/dL
   1.8 mg/dL
   17 mEq/L
   4.8 mEq/L
   51 mg/dL
   118 mEq/L
   144 mEq/L
   25.8 %
   8.8 K/uL
        [image002.jpg]
                             [**2107-4-22**]  06:00 PM
                             [**2107-4-22**]  10:00 PM
                             [**2107-4-23**]  01:13 AM
                             [**2107-4-23**]  05:17 AM
                             [**2107-4-23**]  05:38 AM
                             [**2107-4-23**]  11:11 AM
                             [**2107-4-23**]  03:49 PM
                             [**2107-4-23**]  11:15 PM
                             [**2107-4-24**]  06:08 AM
                             [**2107-4-24**]  06:19 AM
   WBC
   9.8
   11.0
   8.8
   Hct
   27.9
   27.6
   25.8
   Plt
   372
   395
   378
   Cr
   1.8
   2.0
   1.7
   1.8
   TCO2
   18
   20
   20
   17
   19
   Glucose
   115
   156
   226
   104
   139
   129
   Other labs: PT / PTT / INR:18.0/69.3/1.6, CK / CKMB /
   Troponin-T:38//0.08, ALT / AST:46/26, Alk Phos / T Bili:67/0.2,
   Differential-Neuts:76.6 %, Lymph:15.7 %, Mono:6.0 %, Eos:1.1 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:238 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: 7.35/33/116
   Assessment and Plan
   81 yo male with history of ruptured appendicitis now re-admitted with
   hypotension consistent with sepsis but have not been able to clearly
   identify new source.  He has had significant improvement with
   Amiodarone in regards to heart rate and although cardioversion failed
   he has had improved heart rate control and occasional sinus beats.
   1)Shock--Likely combined sepsis and cardiogenic contribution and will
   Rx as-->
   Sepsis--Continue with broad spectrum ABX and PRN fluid
   bolus-_Vanco/ZOsyn
definative source of recurrent infection not clearly
   Levophed to wean and Vasopressin to wean off
   A-Fib--Continue with amiodarone
   and->will attempt to provide wean of levophed as primary measure to
   evaluate improvement in hemodynamics.
   2)Respiratory Failure-Patient with good tolerance of decreased in PSV
   and having minimal secretions and actually opening eyes to voice.  Most
   challenging issue is persistent tachycardia, persistent hypotension.
   Secretions minimal
   -SBT this morning
   -Check ABG at 30 minutes
   -Will need to check anesthesia notes as to difficulty of airway.
   -metabolic issues (acidosis), possible pulmonary edema, poor mental
   status are all barriers that must be considered.
   3)Acute Renal Failure-he does have stable creatinine across time
   -Will provide HCO3- as needed for acidosis should HCO3- decrease below
   16
   -Appreciate renal input
   -Will renal dose all medications
   4)Atrial Fibrillation-
   _Failed cardioversion
   -Continue Amiodarone
   -Hope for SR conversion
   5)Thrombosis-DVT
   -Continue with Heparin
   -To Coumadin when stable
   ICU Care
   Nutrition: TPN to continue with bowel rest
   Glycemic Control:
   Lines:
   PICC Line - [**2107-4-21**] 05:00 PM
   Arterial Line - [**2107-4-22**] 10:58 AM
   Multi Lumen - [**2107-4-23**] 06:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2107-04-25 10:47:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Pt with persistent tachycardia and A-Fib continuing
   -Pt with poor tolerance of SBT
   -TF's started
   -Coumadin started
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-4-24**] 11:17 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-4-25**] 06:06 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 650 units/hour
   Midazolam (Versed) - 1.5 mg/hour
   Norepinephrine - 0.22 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2107-4-24**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2107-4-25**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 117 (106 - 136) bpm
   BP: 109/64(80) {76/50(60) - 109/69(81)} mmHg
   RR: 18 (18 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
   CVP: 10 (9 - 17)mmHg
   Total In:
                                                                  3,260 mL
                                                                  1,246 mL
   PO:
   TF:
                                                                     50 mL
                                                                    190 mL
   IVF:
                                                                  2,925 mL
                                                                    906 mL
   Blood products:
   Total out:
                                                                  2,035 mL
                                                                    870 mL
   Urine:
                                                                  2,035 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,225 mL
                                                                    376 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 428 (428 - 445) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 27 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.35/33/161/19/-6
   Ve: 13 L/min
   PaO2 / FiO2: 403
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   380 K/uL
   129 mg/dL
   1.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   47 mg/dL
   118 mEq/L
   145 mEq/L
   27.1 %
   7.6 K/uL
        [image002.jpg]
                             [**2107-4-23**]  05:38 AM
                             [**2107-4-23**]  11:11 AM
                             [**2107-4-23**]  03:49 PM
                             [**2107-4-23**]  11:15 PM
                             [**2107-4-24**]  06:08 AM
                             [**2107-4-24**]  06:19 AM
                             [**2107-4-24**]  10:59 AM
                             [**2107-4-24**]  01:54 PM
                             [**2107-4-24**]  03:02 PM
                             [**2107-4-25**]  04:01 AM
   WBC
   11.0
   8.8
   7.6
   Hct
   27.6
   25.8
   27.1
   Plt
   395
   378
   380
   Cr
   2.0
   1.7
   1.8
   1.9
   TCO2
   20
   20
   17
   19
   21
   20
   19
   Glucose
   104
   139
   129
   129
   Other labs: PT / PTT / INR:20.5/70.5/1.9, CK / CKMB /
   Troponin-T:38//0.08, ALT / AST:46/26, Alk Phos / T Bili:67/0.2,
   Differential-Neuts:76.6 %, Lymph:15.7 %, Mono:6.0 %, Eos:1.1 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:238 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: 7.35/33/161
   Imaging: CXR-Very poor quality exam--[**First Name9 (NamePattern2) 4981**] [**Location (un) 103**] is of NGT into
   stomach
   Assessment and Plan
   81 yo male with history of ruptured appendicitis and now admitted with
   significant tachycardia and hypotension with persistent A-Fib with RVR
   and associated hypotension.
   1)Respiratory Failure-This is likely secondary to initial insult of
   sepsis, cardiogenic source of shock with A-fib and RVR and intubated in
   the setting of altered mental status.  He now has continued demand of
   persistent hypotension and tachycardia.
   -Atrovent
   -Continue with A/C support overnight
   -Today he will have trial of PSV which should allow evaluation of his
   capacity to tolerate extubation.
   -His increased demand from metabolic acidosis is minimized
   -Hope to move to SBT if favorable tolerance of PSV
if unable to
   tolerate SBT it may well be that diuresis and improved rate
   control/return to SR is needed for success.
   2)Sepsis-Source remains to be defined
   _vanco/Zosyn to continue for 10 day course
   -Follow up culture results
   -Will hope to wean pressors as sedation is weaned around extubation.
   Would like to move to diuresis if possible.
   -Will need to follow fungal cultures
   3)Venous Thombosis-
   -Heparin GTT continuing
   -Coumadin started as will need long term anticoagulation and no
   procedures currently planned
   4)Atrial Fibrillation-
   -Continue with Amiodarone dosing
   -Continue with Digoxin
   -Will utilize nodal blockers to control residual rate elevations
   -Good control today
   -Will need to consider repeat ECHO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-4-21**] 05:00 PM
   Arterial Line - [**2107-4-22**] 10:58 AM
   Multi Lumen - [**2107-4-23**] 06:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2107-04-26 10:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PSV trial with pH=7.19 after 1 hour
   Levophed wean attempted
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-4-25**] 08:43 PM
   Vancomycin - [**2107-4-26**] 10:07 AM
   Piperacillin - [**2107-4-26**] 10:07 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.08 mcg/Kg/min
   Heparin Sodium - 650 units/hour
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2107-4-25**] 08:43 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-26**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.8
C (96.5
   HR: 108 (102 - 130) bpm
   BP: 90/49(63) {82/47(60) - 113/62(79)} mmHg
   RR: 28 (23 - 34) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
   CVP: 24 (10 - 26)mmHg
   Total In:
                                                                  3,213 mL
                                                                  1,543 mL
   PO:
   TF:
                                                                    695 mL
                                                                    369 mL
   IVF:
                                                                  1,918 mL
                                                                    754 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    845 mL
   Urine:
                                                                  2,020 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,193 mL
                                                                    698 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 106
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.37/37/132/19/-3
   Ve: 13.5 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Upper extremity with bilateral edema and erythema
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   333 K/uL
   144 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.1 mEq/L
   45 mg/dL
   119 mEq/L
   148 mEq/L
   24.4 %
   7.3 K/uL
        [image002.jpg]
                             [**2107-4-24**]  06:08 AM
                             [**2107-4-24**]  06:19 AM
                             [**2107-4-24**]  10:59 AM
                             [**2107-4-24**]  01:54 PM
                             [**2107-4-24**]  03:02 PM
                             [**2107-4-25**]  04:01 AM
                             [**2107-4-25**]  12:08 PM
                             [**2107-4-25**]  01:27 PM
                             [**2107-4-26**]  03:46 AM
                             [**2107-4-26**]  07:59 AM
   WBC
   8.8
   7.6
   7.3
   Hct
   25.8
   27.1
   24.4
   Plt
   378
   380
   333
   Cr
   1.8
   1.9
   1.8
   TCO2
   19
   21
   20
   19
   20
   22
   22
   Glucose
   129
   129
   144
   Other labs: PT / PTT / INR:22.4/64.7/2.1, CK / CKMB /
   Troponin-T:38//0.08, ALT / AST:46/26, Alk Phos / T Bili:67/0.2,
   Differential-Neuts:76.6 %, Lymph:15.7 %, Mono:6.0 %, Eos:1.1 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:238 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: 7.37/37/142
   Dig=0.8
   Assessment and Plan
   81 yo male with history of ruptured appendicitis and now with
   readmission with clinical picture consistent with sepsis and source
   remains to be defined.  This in addition has associated metabolic
   acidosis and peristent mild renal failure.  His recent picture has been
   one of failed capacity to tolerate wean in ventilatory support and wean
   of pressor support for hypotension.  This again, is all in the absence
   of significant cluture or radiographic evidence of focal source of
   infection.  His clinical picture is one of progressive decline in terms
   of respiratory status and no expectation to be able to successfully
   wean from ventilator.  His atrial fibrillation has been able to be
   better rate controlled and patient has failed cardioversion and
   amiodarone to trial to achieve sinus rhythm.  In addition he has
   persistent hypotension which has required increased pressor
   requirements.
   1)Respiratory Failure
he is limited by mental status and worsening
   secretions and inability to maintain effective ventilation
   -Patient to PSV to trial today
   -Continue Rx for possible pneumonia-_Vanco/Zosyn continued at D#4
   -Will continue to wean sedation as possible
   2)Atrial Fibrillation-
   -Amiodarone
   -ECHO today
   -Cardiology to evaluate patient for possible alternative approaches to
   stabilize rhythm
   3)DVT-
   Heparin to Coumadin
   4)Sepsis-
   -Foley changed following fungal culture in urine
   -Continue with broad spectrum ABX
   -Continue with levophed.
   -Re-culture for spike.
   5)Renal Failure-
   -Patient total body overloaded
   -Cr has shown minimal change but significantly impaired
   -Continue to look for opportunity for diuresis and will use leveophed
   to maintain BP
   -Would not offer dialysis at this time
   -Lasix gtt. And will start with bolus
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2107-4-26**] 05:28 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2107-4-21**] 05:00 PM
   Arterial Line - [**2107-4-22**] 10:58 AM
   Multi Lumen - [**2107-4-23**] 06:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Patient with multi-organ system impairment
   and persistence of critical illness and of note patient has HCP only of
   neighbor at this time who has been very passive in participation of
   setting of goals of care in current state.  Will consult Ethics team in
   this setting to aid in orientation for goals of care in absence of data
   to provide clear insight into patient wishes and given clinical decline
   and persistence of decline
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2107-04-27 10:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Shock-_Septic
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2107-4-26**] 11:04 AM
   -Suggestion of PE made based on right heart findings
   -PRBC given for possible intravascular depletion-with excellent
   response
   -Lasix gtt continued
   -Ethics Consult of great assistance--patients minimum acceptable
   end-point is to be able to return to independent life at home in
   apartment [**Location (un) 103**] magazines and watching TV which was waht had given
   meaning to his life and without this possible to be achieved he would
   not want continued aggressive care.
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-4-25**] 08:43 PM
   Vancomycin - [**2107-4-27**] 08:59 AM
   Piperacillin - [**2107-4-27**] 09:36 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 20 mcg/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.06 mcg/Kg/min
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2107-4-26**] 11:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-27**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.6
C (96
   HR: 102 (98 - 119) bpm
   BP: 93/53(66) {81/45(58) - 131/69(91)} mmHg
   RR: 18 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
   CVP: 24 (24 - 34)mmHg
   Total In:
                                                                  3,350 mL
                                                                  1,620 mL
   PO:
   TF:
                                                                    840 mL
                                                                    358 mL
   IVF:
                                                                  1,407 mL
                                                                    655 mL
   Blood products:
                                                                    273 mL
                                                                    427 mL
   Total out:
                                                                  4,335 mL
                                                                  2,200 mL
   Urine:
                                                                  4,335 mL
                                                                  2,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -985 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 358 (358 - 487) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.40/35/104/23/-1
   Ve: 9.8 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   330 K/uL
   135 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.1 mEq/L
   43 mg/dL
   115 mEq/L
   147 mEq/L
   29.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2107-4-24**]  03:02 PM
                             [**2107-4-25**]  04:01 AM
                             [**2107-4-25**]  12:08 PM
                             [**2107-4-25**]  01:27 PM
                             [**2107-4-26**]  03:46 AM
                             [**2107-4-26**]  07:59 AM
                             [**2107-4-26**]  11:33 AM
                             [**2107-4-26**]  04:33 PM
                             [**2107-4-27**]  04:00 AM
                             [**2107-4-27**]  04:03 AM
   WBC
   7.6
   7.3
   8.5
   Hct
   27.1
   24.4
   29.8
   Plt
   [**Telephone/Fax (3) 5010**]
   Cr
   1.9
   1.8
   1.9
   1.8
   TCO2
   19
   20
   22
   22
   22
   22
   Glucose
   129
   144
   133
   135
   Other labs: PT / PTT / INR:22.7/35.1/2.2, CK / CKMB /
   Troponin-T:38//0.08, ALT / AST:46/26, Alk Phos / T Bili:67/0.2,
   Differential-Neuts:76.6 %, Lymph:15.7 %, Mono:6.0 %, Eos:1.1 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.2 g/dL, LDH:238 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   81 yo male with ruptured appendicitis now with prolonged respiratory
   failure and hypotension with multiple contributing factors including
   sepsis, atrial-fibrillation, possible right heart compromise and
   intra-vascular depletion.  He, thanks to cardiology input, has had
   transfusion of 2 units PRBC and been able to have some significant
   weaning of pressors this morning
   1)Respiratory Failure-
   -Lasix gtt
   -PSV to wean down as tolerated
   -CXR without signficiant change
   -Secretions are limited
   -Continue with vanco/zosyn
10 day course
   -Start Fluconazole given clinical picture and B-glucan findings
   2)Atrial Fibrillation
   -Amiodarone
   -Coumadin
   -Digoxin
will need to clarify goals of the Digoxin
   -TEE and cardioversion if cardiology would feel we have a reasonable
   chance of success
urgency will depend on capacity to maintain pressors
   off.
   3)Altered Mental Status-
   -Will wean sedation as possible today
   -Likely multifactorial
   -Patient with increased alertness this morning which is encoura
   4)Acute Renal Failure-
   -Bicarb with substantial improvement with support of renal function
   5)Hematuria-
   -Will need follow up evaluation and if clots worsening with obstruction
   will move to 3-way foley
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2107-4-27**] 08:18 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2107-4-21**] 05:00 PM
   Arterial Line - [**2107-4-22**] 10:58 AM
   Multi Lumen - [**2107-4-23**] 06:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2107-04-29 10:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2107-4-28**] 03:05 PM
 MULTI LUMEN - STOP [**2107-4-28**] 03:47 PM
   -Levophed transiently off yesterday but returned in the setting of
   increased sedating medications
   -CVL pulled without event
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2107-4-28**] 11:51 AM
   Vancomycin - [**2107-4-29**] 08:00 AM
   Piperacillin - [**2107-4-29**] 10:00 AM
   Infusions:
   Fentanyl - 10 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-29**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.6
   HR: 94 (89 - 110) bpm
   BP: 115/60(78) {81/42(56) - 130/68(90)} mmHg
   RR: 33 (15 - 40) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  2,499 mL
                                                                  1,679 mL
   PO:
             TF:
                                                                    590 mL
                                                                    371 mL
   IVF:
                                                                  1,269 mL
                                                                    777 mL
   Blood products:
   Total out:
                                                                  3,430 mL
                                                                  1,140 mL
   Urine:
                                                                  3,430 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -931 mL
                                                                    539 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 650 (133 - 650) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 158
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.43/41/110/25/2
   Ve: 11.6 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, moves all extermities
   Labs / Radiology
   10.0 g/dL
   281 K/uL
   137 mg/dL
   1.6 mg/dL
   25 mEq/L
   4.0 mEq/L
   33 mg/dL
   112 mEq/L
   147 mEq/L
   28.9 %
   9.0 K/uL
        [image002.jpg]
                             [**2107-4-27**]  04:03 AM
                             [**2107-4-27**]  11:32 AM
                             [**2107-4-27**]  04:09 PM
                             [**2107-4-28**]  03:00 AM
                             [**2107-4-28**]  03:32 AM
                             [**2107-4-28**]  10:38 AM
                             [**2107-4-28**]  04:02 PM
                             [**2107-4-28**]  04:11 PM
                             [**2107-4-28**]  09:57 PM
                             [**2107-4-29**]  04:38 AM
   WBC
   7.4
   9.0
   Hct
   29.3
   28.8
   28.9
   Plt
   309
   281
   Cr
   1.9
   1.8
   1.6
   1.6
   TCO2
   22
   25
   27
   28
   28
   Glucose
   111
   126
   116
   137
   Other labs: PT / PTT / INR:22.8/33.2/2.2, CK / CKMB /
   Troponin-T:38//0.08, ALT / AST:18/21, Alk Phos / T Bili:125/0.2,
   Amylase / Lipase:27/22, Differential-Neuts:76.6 %, Lymph:15.7 %,
   Mono:6.0 %, Eos:1.1 %, Lactic Acid:0.6 mmol/L, Albumin:2.5 g/dL,
   LDH:208 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: KUB--no obstruction, now ileus
   Assessment and Plan
   81 yo male with prolonged hospital course in the setting of recent
   ruptured appy and now with prolonged course of respiratory failure.  He
   has had sepsis clearly and with prolonged course to resolve hemodynamic
   instability which has been complicated by a-fib with RVR which has
   shown increasing stability in the setting of Amiodarone and improved
   volume status.  He has had continued difficulty with ventilator weaning
   and this has been associated with rapid and shallow breathing which is
   concerning for significant muscle weakness.
   1)Respiratory Failure-He has tolerance of PSV at 12/5 with RR=28-30.
   He has persistent compromise in large part attributable to
   weakness
this will be evaluated by repeat NIF testing.
   -Will move to [**6-7**] trail today and recheck ABG
   -ABG following [**6-7**] trial
   -Will move to minimize sedation and use of fentanyl patch is quite
   reasonable for pain
   2)Sepsis/Hypotension
   -Zosyn/Vanco
   -Levophed to wean as possible today
   -Cultures remain negative and fever controlled
   3)Atrial Fibrillation
   _Amiodarone to continue with good rate control effected
   -Anticoagulated for other reasons
   4)DVT-
   -Coumadin continuing as anticoagulation given extensive clot
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2107-4-29**] 04:43 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2107-4-21**] 05:00 PM
   Arterial Line - [**2107-4-22**] 10:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2107-04-30 10:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yr old hx of lung and prostate ca, COPD, DVT, CHF
   Recent ruptured appendendicitis, here with afib with RVR, hypotension,
   respiratory failure, intubated in ED
   24 Hour Events:
   OOB to chair
   Lasix drip stopped
   Fentanyl patch started
   Pressors off
   NIF - 27, RSBI 92 this AM on PS 5/5 with 7.46/42/102
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2107-4-29**] 12:00 PM
   Piperacillin - [**2107-4-30**] 03:17 AM
   Vancomycin - [**2107-4-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Reviewed - fluconazole 4 d, Vanc/Zosyn x 8 days
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-4-30**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 99 (94 - 127) bpm
   BP: 128/64(86) {88/45(59) - 131/70(89)} mmHg
   RR: 32 (12 - 37) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  3,725 mL
                                                                  1,243 mL
   PO:
             TF:
                                                                    846 mL
                                                                    140 mL
   IVF:
                                                                  1,060 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                  1,950 mL
   Urine:
                                                                  2,200 mL
                                                                  1,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,525 mL
                                                                   -707 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 380 (192 - 460) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 36 cmH2O
   SpO2: 98%
   ABG: 7.46/42/102/29/5
   NIF: -27 cmH2O
   Ve: 12.3 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse, no wheezes
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, Moves 4 extrem
   Labs / Radiology
   9.2 g/dL
   269 K/uL
   117 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.7 mEq/L
   29 mg/dL
   113 mEq/L
   147 mEq/L
   27.1 %
   7.2 K/uL
        [image002.jpg]
                             [**2107-4-28**]  03:32 AM
                             [**2107-4-28**]  10:38 AM
                             [**2107-4-28**]  04:02 PM
                             [**2107-4-28**]  04:11 PM
                             [**2107-4-28**]  09:57 PM
                             [**2107-4-29**]  04:38 AM
                             [**2107-4-29**]  12:37 PM
                             [**2107-4-29**]  05:35 PM
                             [**2107-4-30**]  02:34 AM
                             [**2107-4-30**]  10:32 AM
   WBC
   9.0
   7.2
   Hct
   28.8
   28.9
   27.1
   Plt
   281
   269
   Cr
   1.6
   1.6
   1.4
   1.3
   TCO2
   27
   28
   28
   29
   31
   Glucose
   116
   137
   131
   117
   Other labs: PT / PTT / INR:21.4/32.2/2.0, CK / CKMB /
   Troponin-T:38//0.08, ALT / AST:18/21, Alk Phos / T Bili:125/0.2,
   Amylase / Lipase:27/22, Differential-Neuts:76.6 %, Lymph:15.7 %,
   Mono:6.0 %, Eos:1.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   LDH:208 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: b-glucan
   Microbiology: C diff neg x 2
   Assessment and Plan
   81 yo male with prolonged hospital course in the setting of recent
   ruptured appy and now with prolonged course of respiratory failure.  He
   has had sepsis clearly and with prolonged course to resolve hemodynamic
   instability which has been complicated by a-fib with RVR which has
   shown increasing stability in the setting of Amiodarone and improved
   volume status.  He has had continued difficulty with ventilator weaning
   and this has been associated with rapid and shallow breathing which is
   concerning for significant muscle weakness.
   1) Acute Respiratory Failure
   - appears comfortable on PSV 5/5 with good mechanics and ABG, awake,
   alert.
   - will extubate
    2)Sepsis/Hypotension
   - Zosyn/Vanco day [**10-13**] + fluconazole 4/7 days
   - off pressors
   - Cultures remain negative and fever controlled
    3)Atrial Fibrillation
   -Amiodarone to continue with good rate control
   -Anticoagulated for UE DVT
    4)DVT-
   -Coumadin continuing as anticoagulation given extensive clot in right
   SCV
   - keep INR 2-2.5 given hematuria
   5) Renal failure
   - improving, creat at 1.3
   6) Pancreatic Mass
 likely benign, followed in past
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2107-4-21**] 05:00 PM
   Arterial Line - [**2107-4-22**] 10:58 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:  will update NOK
   Communication: ICU consent signed
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2107-05-01 10:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday without complication
   Na increased - bolused IVF
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2107-4-29**] 12:00 PM
   Vancomycin - [**2107-4-30**] 08:00 AM
   Piperacillin - [**2107-4-30**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-5-1**] 04:29 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-5-1**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.7
   HR: 106 (97 - 106) bpm
   BP: 137/70(92) {115/54(75) - 145/89(105)} mmHg
   RR: 22 (22 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,280 mL
                                                                    600 mL
   PO:
                                                                    120 mL
             TF:
                                                                    140 mL
   IVF:
                                                                    470 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  3,105 mL
                                                                  1,015 mL
   Urine:
                                                                  3,105 mL
                                                                  1,015 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,825 mL
                                                                   -415 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.44/44/92.[**Numeric Identifier 641**]/29/4
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Wheezes : rare
   scattered)
   Abdominal: Soft, Non-tender
   Extremities: UE edema
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   270 K/uL
   97 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.7 mEq/L
   23 mg/dL
   115 mEq/L
   154 mEq/L
   28.3 %
   6.7 K/uL
        [image002.jpg]
                             [**2107-4-28**]  04:02 PM
                             [**2107-4-28**]  04:11 PM
                             [**2107-4-28**]  09:57 PM
                             [**2107-4-29**]  04:38 AM
                             [**2107-4-29**]  12:37 PM
                             [**2107-4-29**]  05:35 PM
                             [**2107-4-30**]  02:34 AM
                             [**2107-4-30**]  10:32 AM
                             [**2107-4-30**]  06:36 PM
                             [**2107-5-1**]  03:02 AM
   WBC
   9.0
   7.2
   6.7
   Hct
   28.8
   28.9
   27.1
   28.3
   Plt
   [**Telephone/Fax (3) 5085**]
   Cr
   1.6
   1.6
   1.4
   1.3
   1.3
   TCO2
   28
   29
   31
   31
   Glucose
   116
   137
   131
   117
   97
   Other labs: PT / PTT / INR:23.7/33.7/2.3, CK / CKMB /
   Troponin-T:38//0.08, ALT / AST:18/21, Alk Phos / T Bili:125/0.2,
   Amylase / Lipase:27/22, Differential-Neuts:76.6 %, Lymph:15.7 %,
   Mono:6.0 %, Eos:1.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   LDH:208 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   81 yo male with prolonged hospital course in the setting of recent
   ruptured appy and now with prolonged course of respiratory failure.  He
   has had sepsis clearly and with prolonged course to resolve hemodynamic
   instability which has been complicated by a-fib with RVR which has
   shown increasing stability in the setting of Amiodarone and improved
   volume status.  He has had continued difficulty with ventilator weaning
   and this has been associated with rapid and shallow breathing which is
   concerning for significant muscle weakness.
   1) Acute Respiratory Failure
   - extubated successfully, encourage incentive spirometry, OOB to chair,
   chest PT prn.
    2)ID
   - sepsis resolved, - Zosyn/Vanco day [**11-12**] + fluconazole 5/7 days
   - Cultures remain negative and fever controlled
    3)Atrial Fibrillation
   -Amiodarone to continue for rate control
   -Anticoagulated for UE DVT
   4)DVT- coumadin continuing as anticoagulation given extensive clot in
   right SCV
   - keep INR 2-2.5 given hematuria
   5) Renal failure - improving, creat at 1.3
   6) Pancreatic Mass
 likely benign, followed in past
   7) Hypertension
 will add back metoprolol
   8) Hypernatremia
 being corrected with IVF
   ICU Care
   Nutrition: speech and swallow eval
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2107-4-21**] 05:00 PM
   Arterial Line - [**2107-4-22**] 10:58 AM to be pulled
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
 switch to pantoprazole
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is ill